US07642264B2
2-(4-Bromo-2-methyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)pyrimidine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.2) (0.65 g, 2.0 mmol) and commercially available 4-bromo-2-methyl-imidazole (0.48 g, 3.0 mmol) according to the general procedure IVa. Obtained as a light brown solid (0.73 g, 81%). MS (ISP) 451.0 [(M+H)+]; mp 174° C.

reactant | 2-chloro-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 2.0 mmol, 0.65 g | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H5ClF6N2
reactant | 4-bromo-2-methyl-imidazole | 3.0 mmol, 0.48 g | BrC=1N=C(NC1)C | C4H5BrN2
product | 2-(4-Bromo-2-methyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)pyrimidine | BrC=1N=C(N(C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C16H9BrF6N4
